US05661159
To a solution of N-[2-(2-quinolyl)benzofuran-5-ylcarbonyl]-2-methylbenzenesulfonamide (0.25 g) in ethyl acetate (100 ml) was added saturated hydrogen chloride in ethyl acetate. The resulting precipitates were collected by filtration and washed with ethyl acetate and ethanol to give N-[2-(2-quinolyl)benzofuran-5-ylcarbonyl]-2-methyl-benzenesulfonamide hydrochloride (0.19 g).

reactant | N-[2-(2-quinolyl)benzofuran-5-ylcarbonyl]-2-methylbenzenesulfonamide | 0.25 g | N1=C(C=CC2=CC=CC=C12)C=1OC2=C(C1)C=C(C=C2)C(=O)NS(=O)(=O)C2=C(C=CC=C2)C | C25H18N2O4S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-[2-(2-quinolyl)benzofuran-5-ylcarbonyl]-2-methyl-benzenesulfonamide hydrochloride | 0.19 g | Cl.N1=C(C=CC2=CC=CC=C12)C=1OC2=C(C1)C=C(C=C2)C(=O)NS(=O)(=O)C2=C(C=CC=C2)C | InChI=1S/C25H18N2O4S.ClH/c1-16-6-2-5-9-24(16)32(29,30)27-25(28)18-11-13-22-19(14-18)15-23(31-22)21-12-10-17-7-3-4-8-20(17)26-21;/h2-15H,1H3,(H,27,28);1H
